US06498185B1
To a solution of N-(4-chlorophenyl)-2-[((5-bromomethyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide (0.3 g, 0.58 mmol) in dioxane (10 mL) and water (2 mL) was added CaCO3 (0.29 g, 2.89 mmol). The resulting turbid solution was heated to reflux for 64 hours, and then cooled to ambient temperature. The reaction mixture was concentrated to remove dioxane and purified by flash chromatography on silica followed by precipitation from CH2Cl2 and hexane to afford 0.15 g of N-(4-chlorophenyl)-2-[((5-hydroxymethyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide, as a yellow solid; NMR (DMSO-d6/TFA) 11.1 (s, 1), 10.7 (s, 1), 8.4 (d, 1), 7.9 (s, 1), 7.7 (d, 2), 7.5 (d, 1), 7.3 (d, 2), 7.0 (s, 1), 4.6 (s, 2) ppm.

reactant | N-(4-chlorophenyl)-2-[((5-bromomethyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.58 mmol, 0.3 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)CBr)=O | C19H12BrCl3N2O2S
reactant | CaCO3 | 2.89 mmol, 0.29 g | C(=O)([O-])[O-].[Ca+2]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | N-(4-chlorophenyl)-2-[((5-hydroxymethyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.15 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)CO)=O | C19H13Cl3N2O3S
